### ISSUE TITLE
(kernel) application type mismatch

### ISSUE THREAD

**Issue by MikaelMayer** [leanprover/lean4#10353]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description
The following file has a kernel issue. Any comment with RB indicates that doing so will remove the bug, so it's pretty unstable. I was not able to reduce it further.

```
-- RB == removes bug
-- Removing IndentW RB
structure IW : Type 1 where
  I : Type

mutual

def aux (iw: IW) (e : Nat) (sm : List iw.I)
  : Nat :=
  e

-- I: Type instead of iw: IW RB
def aval (iw: IW) (n : Nat) (e : Nat) : Nat :=
  match n with
  | 0 => e
  | n' + 1 =>
      let e1 :=
        let input_map: List iw.I := [] --lifting RB
        let new_e := aux iw e input_map -- removing args RB
        avalCore iw n' new_e -- inlining RB
      avalCore iw n' e

-- Inlining RB
def avalCore (iw: IW) (n' : Nat) (e : Nat) : Nat :=
  aval iw n' e

end

```

Output
```
(kernel) application type mismatch
  aux (wfParam iw) (wfParam e) n'
argument has type
  Nat
but function has type
  List (IW.I (wfParam iw)) → Nat
```

### Context

I minimize a lambda calculus rewriting and stumbled on this today.

### Steps to Reproduce

1. Copy the code above
2. Paste it on https://live.lean-lang.org/#project=lean-nightly
3. Expand the info and observe the error message

**Expected behavior:** The file shouldn't fail

**Actual behavior:** The file fails

### Versions

4.23.0-rc2
live.lean-lang.org and Windows

### Additional Information

No configuration necessary

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Hmm, `e1` looks unused. Intentional?

**Comment by MikaelMayer** [comment]
Intentional. It's used in the original source code. Actually in the original source code, the computation of `e1` and the body of the let are two branches of a match statement, and the matchee does not matter. This nested let is the result of trying to remove the pattern marching while keeping the bug.

**Comment by nomeata** [comment]
Right, I just hope that an unused let won't lead debugging or fixing astray, if some step now just removes it.

**Comment by nomeata** [comment]
The issue is with proving the `.eq_def` thm:
```
-- RB == removes bug
-- Removing IndentW RB
structure IW : Type 1 where
  I : Type

set_option Elab.async false

def aux (iw: IW) (e : Nat) (sm : List iw.I)
  : Nat :=
  e

/--
error: Cannot derive unfold equation aval._mutual.eq_def
  (kernel) application type mismatch
    aux (wfParam iw) (wfParam e) n'
  argument has type
    Nat
  but function has type
    List (IW.I (wfParam iw)) → Nat
-/
#guard_msgs in
mutual
-- I: Type instead of iw: IW RB
def aval (iw: IW) (n : Nat) (e : Nat) : Nat :=
  match n with
  | 0 => e
  | n' + 1 =>
      let e1 :=
        let input_map: List iw.I := [] --lifting RB
        let new_e := aux iw e input_map -- removing args RB
        avalCore iw n' new_e -- inlining RB
      avalCore iw n' e
termination_by (n, 0)

-- Inlining RB
def avalCore (iw: IW) (n' : Nat) (e : Nat) : Nat :=
  aval iw n' e
termination_by (n', 1)

end
```

The problem also goes away if the second recursive call to `avalCore` uses `e1` rather than `e`.

It also goes away when using `e1` like this:
```
      if e1 == e1 then
      aval iw n' e else 0
```
But no further clues for now.

**Comment by joehendrix** [comment]
@nomeata Thanks, it looks like we can temporarily work around this through using `partial` then.  It'd be good to have a fix (or at least insight into the cause) so we can remove the partial annotations for reasoning purposes.

**Comment by nomeata** [comment]
This is a regression from between v4.21.0 to v4.22.0.

And between nightly-2025-06-26 and nightly-2025-06-27, so 
https://github.com/leanprover/lean4-nightly/releases/tag/nightly-2025-06-27
so maybe #8968. @kmill, can you have a look?

**Comment by nomeata** [comment]
With `set_option wf.preprocess false` the bug disappears as well.

**Comment by nomeata** [comment]
without conclusive evidence (cannot use `check` here because of open terms) I suspect some bvar index calculation mistake in or near this code in `simpHaveTelescope`
```
        withExistingLocalDecls [hinfo.decl] <| withNewLemmas #[x] do
          let rb ← simpHaveTelescopeAux info fixed used b (i + 1) (xs.push x)
          let expr := mkApp (mkLambda n .default t rb.expr) v'
          let exprType := rb.exprType.lowerLooseBVars 1 1
          let exprInit := mkApp (mkLambda n .default t rb.exprInit) v
          let exprResult := mkHave n t v' rb.exprResult
          match valModified, rb.modified with
          | false, false =>
            let proof := mkApp2 (mkConst `Eq.refl [info.level]) exprType expr
            return { expr, exprType, exprInit, exprResult, proof, modified := false }
          | true, false =>
            let proof := mkApp6 (mkConst ``have_val_congr' us) t exprType v v'
              (mkLambda n .default t rb.exprInit) vproof
            return { expr, exprType, exprInit, exprResult, proof, modified := true }
          | false, true =>
            let proof := mkApp6 (mkConst ``have_body_congr' us) t exprType v
              (mkLambda n .default t rb.exprInit) (mkLambda n .default t rb.expr) (mkLambda n .default t rb.proof)
            return { expr, exprType, exprInit, exprResult, proof, modified := true }
          | true, true =>
            let proof := mkApp8 (mkConst ``have_congr' us) t exprType v v'
              (mkLambda n .default t rb.exprInit) (mkLambda n .default t rb.expr) vproof (mkLambda n .default t rb.proof)
            return { expr, exprType, exprInit, exprResult, proof, modified := true }
```

**Comment by nomeata** [comment]
More evidence is that this patch makes the problem go away:
```patch
--- a/src/Lean/Meta/Tactic/Simp/Main.lean
+++ b/src/Lean/Meta/Tactic/Simp/Main.lean
@@ -723,8 +723,9 @@ where
             let proof := mkApp2 (mkConst `Eq.refl [info.level]) exprType expr
             return { expr, exprType, exprInit, exprResult, proof, modified := false }
           | true, false =>
-            let proof := mkApp6 (mkConst ``have_val_congr' us) t exprType v v'
-              (mkLambda n .default t rb.exprInit) vproof
+            let proof ← mkSorry (← mkEq expr exprResult) true
             return { expr, exprType, exprInit, exprResult, proof, modified := true }
           | false, true =>
             let proof := mkApp6 (mkConst ``have_body_congr' us) t exprType v
```
and this
```patch
--- a/src/Lean/Meta/Tactic/Simp/Main.lean
+++ b/src/Lean/Meta/Tactic/Simp/Main.lean
@@ -673,7 +673,7 @@ where
           let proof := mkApp6 (mkConst ``have_unused' us) t exprType v expr expr
             (mkApp2 (mkConst ``Eq.refl [info.level]) exprType expr)
           return { expr, exprType, exprInit, exprResult, proof, modified := true }
-      else if fixed.contains i then
+      else if true then -- fixed.contains i then
         /-
         Fixed `have` (like `CongrArgKind.fixed`): dsimp the value and simp the body.
         The variable appears in the type of the body.
```
and this
```patch
--- a/src/Lean/Meta/Tactic/Simp/Main.lean
+++ b/src/Lean/Meta/Tactic/Simp/Main.lean
@@ -622,7 +622,7 @@ def simpHaveTelescope (e : Expr) : SimpM Result := do
       | .error ex => pure m!"{crossEmoji} {ex.toMessageData}") do
     let info ← getHaveTelescopeInfo e
     assert! !info.haveInfo.isEmpty
-    let (fixed, used) ← info.computeFixedUsed (keepUnused := !(← getConfig).zetaUnused)
+    let (fixed, used) ← info.computeFixedUsed (keepUnused := false) --  !(← getConfig).zetaUnused)
     let r ← simpHaveTelescopeAux info fixed used e 0 (Array.mkEmpty info.haveInfo.size)
     if r.modified && debug.simp.check.have.get (← getOptions) then
       check r.expr
```
and this
```patch
+++ b/src/Lean/Meta/Tactic/Simp/Main.lean
@@ -715,7 +715,9 @@ where
         withExistingLocalDecls [hinfo.decl] <| withNewLemmas #[x] do
           let rb ← simpHaveTelescopeAux info fixed used b (i + 1) (xs.push x)
           let expr := mkApp (mkLambda n .default t rb.expr) v'
-          let exprType := rb.exprType.lowerLooseBVars 1 1
+          let exprType := mkApp (mkLambda n .default t rb.exprType) v'
           let exprInit := mkApp (mkLambda n .default t rb.exprInit) v
           let exprResult := mkHave n t v' rb.exprResult
           match valModified, rb.modified with
```
This is in branch
```
        Non-fixed `have` (like `CongrArgKind.eq`): simp both the value and the body.
        The variable does not appear in the type of the body.
```
which seems to be wrong. 

But I’m somewhat out of my depth (and time) here. Will wait for input from @kmill.

**Comment by nomeata** [comment]
After a night of sleep and a second look I think the problem is with
```
        let bodyTypeDeps : Std.HashSet Nat := Nat.fold fvars.size (init := {}) fun idx _ deps =>
          if bodyTypeFVarIds.contains fvars[idx].fvarId! then
            deps.insert idx
          else
            deps
```
not taking dependencies into account. So a fvar may not appear directly in the body, but it may appear in the value of another have that appears in the body. In the common case, without `keepUnused`, this may not show up becaues of the calculation of “used” things, which seems to be smarter about this, but in wfpreprocess we do want to preserve unused `have`, so this code path gets entered.

**Comment by nomeata** [comment]
Ah, and knowing where to look I can finally produce a small minimzier:
```
/--
error: (kernel) type checker does not support loose bound variables, replace them with free variables before invoking it
-/
#guard_msgs in
example :
  (have x : Nat := id 1
  have y : Nat := id x + 1
  (fun (x : Fin y) => x)) = (fun x => x) := by
  simp -zetaUnused -zetaDelta -zeta only [id]
  rfl
```
